US09107916B2
A. 2-[5-[(2,4-dichlorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (2,4-dichlorophenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.29 (2H, s), 5.79 (1H, d, J=1.6 Hz), 7.29-7.32 (1H, m), 7.42 (1H, dd, J=1.2, 5.2 Hz), 7.45 (1H, d, J=2.4 Hz), 7.53 (1H, d, J=8.4 Hz), 7.59 (1H, d, J=1.6 Hz), 8.06 (1H, s), 8.71 (1H, d, J=4.8 Hz). [M+H] Calc'd for C16H10C12N4O, 345. Found, 345.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (2,4-dichlorophenyl)methanol | ClC1=C(C=CC(=C1)Cl)CO | C7H6Cl2O
product | 2-[5-[(2,4-dichlorophenyl)methoxy]pyrazol-1-yl]pyridine-4-carbonitrile | ClC1=C(C=CC(=C1)Cl)COC1=CC=NN1C1=NC=CC(=C1)C#N | C16H10Cl2N4O
